US09120749B2
1-{4-[trans-4-Aminocyclohexylamino]-6-(3,5-difluoro-4-hydroxyphenyl)quinolin-3-yl}ethanone
Following general procedure A-2, tert-butyl trans-4-[3-acetyl-6-(3,5-difluoro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate (30 mg, 0.059 mmol) was reacted with TFA (2 mL) to afford the desired product (14.2 mg, 59%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 8.98 (s, 1H), 8.35 (d, J=1.9 Hz, 1H), 8.07-8.00 (m, 1H), 7.93 (d, J=8.7 Hz, 1H), 7.33 (dd, J=8.0, 1.6 Hz, 2H), 4.29 (s, 1H), 3.23 (s, 1H), 2.71 (s, 3H), 2.41 (d, J=12.2 Hz, 2H), 2.19 (d, J=12.1 Hz, 2H), 1.76-1.67 (m, 2H), 1.63-1.54 (m, 2H); ESI MS m/z 412 [C23H23F2N3O2+H]+; HPLC 98.7% (AUC), tR=8.13 min.

reactant | tert-butyl trans-4-[3-acetyl-6-(3,5-difluoro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate | 0.059 mmol, 30 mg | C(C)(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)F)O)F | C28H31F2N3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-{4-[trans-4-Aminocyclohexylamino]-6-(3,5-difluoro-4-hydroxyphenyl)quinolin-3-yl}ethanone | 14.2 mg, 59% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)F)O)F)C(C)=O | C23H23F2N3O2
